US06531502B1
3,5-Diisopropyl-4-methoxybenzaldehyde was condensed with 4-methyl-5-chloro-2-oxindole to give 0.4 g of 5-chloro-3-(3,5-diisopropyl-4-methoxybenzylidene)-4-methyl-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 3,5-Diisopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)C | C14H20O2
reactant | 4-methyl-5-chloro-2-oxindole | CC1=C2CC(NC2=CC=C1Cl)=O | C9H8ClNO
product | 5-chloro-3-(3,5-diisopropyl-4-methoxybenzylidene)-4-methyl-1,3-dihydroindol-2-one | 0.4 g | ClC=1C(=C2C(C(NC2=CC1)=O)=CC1=CC(=C(C(=C1)C(C)C)OC)C(C)C)C | C23H26ClNO2
